US06130014
Ethyl Methacrylate/n-Butyl Methacrylate/Ethylene Glycol Dimethacrylate/Methacrylic Acid (40/50/5/5)
Same as C5 except that the monomer emulsion was composed of 5 g of SDS, 1 g of sodium persulfate, 60 g of ethyl methacrylate, 100 g of n-butyl methacrylate, 20 g of methacrylic acid, and 20 g of ethylene glycol dimethacrylate. The final particle size was 34 nm, % solids was 21.1% and Tg was 89° C.

reactant | SDS | 5 g | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | sodium persulfate | 1 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | ethyl methacrylate | 60 g | C(C(=C)C)(=O)OCC | C6H10O2
reactant | n-butyl methacrylate | 100 g | C(C(=C)C)(=O)OCCCC | C8H14O2
reactant | methacrylic acid | 20 g | C(C(=C)C)(=O)O | C4H6O2
reactant | ethylene glycol dimethacrylate | 20 g | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
product | Ethyl Methacrylate n-Butyl Methacrylate Ethylene Glycol Dimethacrylate Methacrylic Acid | C(C(=C)C)(=O)OCC.C(C(=C)C)(=O)OCCCC.C(C(=C)C)(=O)OCCOC(C(=C)C)=O.C(C(=C)C)(=O)O | InChI=1S/C10H14O4.C8H14O2.C6H10O2.C4H6O2/c1-7(2)9(11)13-5-6-14-10(12)8(3)4;1-4-5-6-10-8(9)7(2)3;1-4-8-6(7)5(2)3;1-3(2)4(5)6/h1,3,5-6H2,2,4H3;2,4-6H2,1,3H3;2,4H2,1,3H3;1H2,2H3,(H,5,6)
